US04567272
6-ethoxy-2-methylamino-3-nitropyridine
In a stirred mixture consisting of 202.6 g (1 mole) of 2-chlor-6-ethoxy-3-nitropyridine and 500 ml of methanol, 202 g (2.6 mole) of a 40% monomethylamine solution is added drop by drop while stirring in the course of 90 minutes and at 25°-30° C. sump temperature. Subsequently, the mixture is again stirred for yet another 5 hours, is reacted with 650 ml of water, and then the product is filtered off by suction, is washed again with ample water and dried. Melting point 106°-7° C., Yield: 183.2 g (92.9% of theory).

reactant | 2-chlor-6-ethoxy-3-nitropyridine | 1 mole, 202.6 g | ClC1=NC(=CC=C1[N+](=O)[O-])OCC | C7H7ClN2O3
reactant | methanol | 500 ml | CO | CH4O
reactant | monomethylamine | CN | CH5N
solvent | water | 650 ml | O | H2O
product | 6-ethoxy-2-methylamino-3-nitropyridine | C(C)OC1=CC=C(C(=N1)NC)[N+](=O)[O-] | C8H11N3O3
